### PR TITLE
feat: ~~~(-x) bv_decide

### PR DESCRIPTION
**Pull request by hargoniX**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2070,6 +2079,22 @@ theorem smod_zero {x : BitVec n} : x.smod 0#n = x := by
...
+    apply BitVec.eq_of_toNat_eq
+    simp only [BitVec.toNat_neg, BitVec.toNat_not, BitVec.toNat_add, BitVec.toNat_ofNat,
+      Nat.add_mod_mod]
+    by_cases hx : x.toNat = 0
+    · simp [hx]
+    · rw [show (_ - 1 % _) = _ by rw [Nat.mod_eq_of_lt (by omega)]]
+      rw [show _ + (_ - 1) = (x.toNat - 1) + 2^(w + 1) by omega]
+      rw [Nat.add_mod_right]
+      rw [show (x.toNat - 1) % _ = _ by rw [Nat.mod_eq_of_lt (by omega)]]
+      rw [show (_ - x.toNat) % _ = _ by rw [Nat.mod_eq_of_lt (by omega)]]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2095]:
```suggestion
    · rw [show (_ - 1 % _) = _ by rw [Nat.mod_eq_of_lt (by omega)],
        show _ + (_ - 1) = (x.toNat - 1) + 2^(w + 1) by omega,
        Nat.add_mod_right,
        show (x.toNat - 1) % _ = _ by rw [Nat.mod_eq_of_lt (by omega)],
        show (_ - x.toNat) % _ = _ by rw [Nat.mod_eq_of_lt (by omega)]]
```

I should have written it this way :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -961,6 +961,15 @@ theorem not_not {b : BitVec w} : ~~~(~~~b) = b := by
   ext i
   simp
 
+theorem not_eq_iff_eq_not {x y : BitVec w} : ~~~ x = y ↔ x = ~~~ y := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:964]:
```suggestion
theorem not_eq_comm {x y : BitVec w} : ~~~ x = y ↔ x = ~~~ y := by
```

This seems to be the spelling that is used for `Int`s: `Int.neg_eq_comm {a b : Int} : -a = b ↔ -b = a`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2070,6 +2079,22 @@ theorem smod_zero {x : BitVec n} : x.smod 0#n = x := by
   · simp
   · by_cases h : x = 0#n <;> simp [h]
 
+theorem not_neg (x : BitVec w) : ~~~(-x) = x + -1#w := by
+  rcases w with _ | w
+  · apply Subsingleton.elim
+  · rw [BitVec.not_eq_iff_eq_not]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2085]:
```suggestion
  · rw [BitVec. not_eq_comm]
```

**Review by bollu — APPROVED** [review]
LGTM
